data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:1]12[c:17]([n:5][o:27][n+:26]1[O-:2])[n:16][c:14]([O:21][CH3:15])[n:6][cH:22]2.[c:3]1([S:18](=[O:23])(=[O:24])[CH-:28][c:9]2[cH:7][cH:19][cH:25][cH:20][cH:8]2)[cH:10][cH:12][cH:4][cH:13][cH:11]1>>[c:1]12[c:17]([n:5][o:27][n+:26]1[O-:2])[N:16]=[C:14]([O:21][CH3:15])[N-:6][CH:22]2[CH:28]([c:9]1[cH:7][cH:19][cH:25][cH:20][cH:8]1)[S:18]([c:3]1[cH:10][cH:12][cH:4][cH:13][cH:11]1)(=[O:23])=[O:24]", "epd": [["LP-/Sigma+", [28], [28, 22]], ["Pi-/LP+", [22, 6], [6]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[N:2]1([c:21]2[cH:27][cH:3][n:33][cH:4][cH:28]2)[CH2:16][CH2:32][CH2:5][CH:18]1[C:26]([c:22]1[cH:6][cH:12][cH:19][cH:13][cH:7]1)([c:23]1[cH:8][cH:14][cH:20][cH:15][cH:9]1)[F:31].[cH:1]1[cH:10][cH:29][c:25]([N+:17](=[CH2:24])[CH3:34])[cH:30][cH:11]1>>[cH:1]1[cH:10][cH:29][c:25]([N:17]([CH2:24][n:33]2[cH:3][cH:27][c:21](=[N+:2]3[CH2:16][CH2:32][CH2:5][CH:18]3[C:26]([c:22]3[cH:6][cH:12][cH:19][cH:13][cH:7]3)([c:23]3[cH:8][cH:14][cH:20][cH:15][cH:9]3)[F:31])[cH:28][cH:4]2)[CH3:34])[cH:30][cH:11]1", "epd": [["Pi-/Sigma+", [4, 33], [24, 33]], ["LP-/Pi+", [2], [2, 21]], ["Pi-/LP+", [17, 24], [17]], ["Pi-/Pi+", [21, 28], [4, 28]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[N-:2]=[N+:11]=[C:19]1[CH:13]=[CH:4][CH:5]=[CH:14]1.[cH:1]1[cH:3][cH:16][cH:7][c:8]2[c:6]1[N+:21]([CH3:10])=[CH:15][C:12]2=[CH:9][c:20]1[cH:17][cH:22][cH:24][cH:23][cH:18]1>>[cH:1]1[cH:3][cH:16][cH:7][c:8]2[c:6]1[n:21]([CH3:10])[cH:15][c:12]2[CH:9]([CH:13]1[CH:4]=[CH:5][CH:14]=[C:19]1[N+:11]#[N:2])[c:20]1[cH:17][cH:22][cH:24][cH:23][cH:18]1", "epd": [["LP-/Pi+", [2], [11, 2]], ["Pi-/Pi+", [19, 11], [14, 19]], ["Pi-/Pi+", [5, 14], [4, 5]], ["Pi-/Sigma+", [13, 4], [13, 9]], ["Pi-/Pi+", [9, 12], [12, 15]], ["Pi-/LP+", [15, 21], [21]]]}
{"reaction_name": "Base-promoted acyl migration", "rsmi": "[CH3:1][C:5](=[O:3])[O:7][CH2:6][CH2:2][O-:4]>>[CH3:1][C:5](=[O:3])[O:4][CH2:2][CH2:6][O-:7]", "epd": [["LP-/Sigma+", [4], [4, 5]], ["Pi-/LP+", [3, 5], [3]], ["LP-/Pi+", [3], [3, 5]], ["Sigma-/LP+", [5, 7], [7]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[N:4]1([c:7]2[c:34]([CH3:10])[cH:30][c:22]([CH3:18])[cH:33][c:37]2[CH3:13])[CH:29]=[CH:28][N:5]([c:8]2[c:35]([CH3:11])[cH:31][c:23]([CH3:19])[cH:32][c:36]2[CH3:12])[C:38]1=[CH2:27].[O:1]([S:6][C:26]([F:15])([F:16])[F:17])[C:9]([CH3:24])([CH3:25])[c:39]1[cH:2][cH:20][cH:14][cH:21][cH:3]1>>[O-:1][C:9]([CH3:24])([CH3:25])[c:39]1[cH:2][cH:20][cH:14][cH:21][cH:3]1.[n+:4]1(-[c:7]2[c:34]([CH3:10])[cH:30][c:22]([CH3:18])[cH:33][c:37]2[CH3:13])[cH:29][cH:28][n:5](-[c:8]2[c:35]([CH3:11])[cH:31][c:23]([CH3:19])[cH:32][c:36]2[CH3:12])[c:38]1[CH2:27][S:6][C:26]([F:15])([F:16])[F:17]", "epd": [["LP-/Pi+", [4], [38, 4]], ["Pi-/Sigma+", [27, 38], [27, 6]], ["Sigma-/LP+", [6, 1], [1]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[cH:1]1[cH:3][cH:20][c:12]([N+:5](=[CH2:11])[CH3:25])[cH:21][cH:4]1.[cH:2]1[cH:13][cH:6][c:18]([C:15](=[C:8]2[N:9]([CH3:23])[C:16]([CH3:22])=[C:26]([CH3:24])[S:17]2)[O:19][CH3:10])[cH:7][cH:14]1>>[cH:1]1[cH:3][cH:20][c:12]([N:5]([CH2:11][C:15]([c:8]2[n+:9]([CH3:23])[c:16]([CH3:22])[c:26]([CH3:24])[s:17]2)([c:18]2[cH:6][cH:13][cH:2][cH:14][cH:7]2)[O:19][CH3:10])[CH3:25])[cH:21][cH:4]1", "epd": [["LP-/Pi+", [9], [8, 9]], ["Pi-/Sigma+", [15, 8], [15, 11]], ["Pi-/LP+", [11, 5], [5]]]}
{"reaction_name": "Anionic nucleophile capture of a preformed localized carbocation", "rsmi": "[O-:1][c:2]1[cH:13][cH:8][c:10]([CH3:7])[cH:9][cH:14]1.[cH:3]1[c:11]([CH+:25][c:12]2[cH:4][c:17]([F:21])[cH:24][c:18]([F:22])[cH:5]2)[cH:6][c:15]([F:19])[cH:23][c:16]1[F:20]>>[O:1]([c:2]1[cH:13][cH:8][c:10]([CH3:7])[cH:9][cH:14]1)[CH:25]([c:11]1[cH:3][c:16]([F:20])[cH:23][c:15]([F:19])[cH:6]1)[c:12]1[cH:4][c:17]([F:21])[cH:24][c:18]([F:22])[cH:5]1", "epd": [["LP-/Sigma+", [1], [1, 25]]]}
{"reaction_name": "Bromolactonization", "rsmi": "[Br:7][Br:8].[CH2:1]([CH2:3][C:6](=[O:2])[OH:4])[CH:5]=[CH2:9]>>[Br-:8].[CH2:1]1[CH2:3][C:6](=[O:2])[OH+:4][CH:5]1[CH2:9][Br:7]", "epd": [["Pi-/Sigma+", [5, 9], [7, 9]], ["Sigma-/LP+", [7, 8], [8]], ["LP-/Sigma+", [4], [4, 5]]]}
{"reaction_name": "Nitro–aci-nitro tautomerization", "rsmi": "[N+:1](=[O:2])([CH2:3][H:5])[O-:4]>>[N+:1]([O:2][H:5])(=[CH2:3])[O-:4]", "epd": [["Sigma-/Pi+", [3, 5], [1, 3]], ["Pi-/LP+", [1, 2], [2]], ["LP-/Sigma+", [2], [2, 5]]]}
{"reaction_name": "Solvolytic elimination", "rsmi": "[Cl:1][C:2]([CH2:3][H:7])([CH3:4])[CH3:5].[OH2:6]>>[C:2](=[CH2:3])([CH3:4])[CH3:5].[Cl-:1].[OH2+:6][H:7]", "epd": [["Sigma-/LP+", [1, 2], [1]], ["LP-/Sigma+", [6], [6, 7]], ["Sigma-/Pi+", [3, 7], [2, 3]]]}
